US04866151
2[2-(1,3-Dioxolan-2-yl)-ethoxy]ethyl methacrylate (IV)
The preparation was similar to that used for the preparation of the monomer designated III except that 22.0 g triethylamine, 32.4 g 2-[2(2-hydroxyethoxy)-ethyl]-1,3-dioxolane and 180 ml methylene chloride were added initially and 23.22 g methacryloyl chloride were added dropwise. The monomer was purified by distillation at 106° C. under 0.2 mm Hg pressure.

reactant | triethylamine | 22.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-[2(2-hydroxyethoxy)-ethyl]-1,3-dioxolane | 32.4 g | OCCOCCC1OCCO1 | C7H14O4
reactant | methacryloyl chloride | 23.22 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 2[2-(1,3-Dioxolan-2-yl)-ethoxy]ethyl methacrylate | C(C(=C)C)(=O)OCCOCCC1OCCO1 | C11H18O5
